US08536165B2
B. 2-(5-Chloro-6-phenylpyridin-3-ylamino)-5-methylbenzoic acid
Obtained (0.005 g, 87% of yield) following the procedure described in Example 8 (step B) starting with 0.006 g (0.02 mmol) of tert-Butyl 2-(5-chloro-6-phenylpyridin-3-ylamino)-5-methylbenzoate in 1 ml of TFA.

reactant | tert-Butyl 2-(5-chloro-6-phenylpyridin-3-ylamino)-5-methylbenzoate | 0.02 mmol, 0.006 g | ClC=1C=C(C=NC1C1=CC=CC=C1)NC1=C(C(=O)OC(C)(C)C)C=C(C=C1)C | C23H23ClN2O2
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(5-Chloro-6-phenylpyridin-3-ylamino)-5-methylbenzoic acid | ClC=1C=C(C=NC1C1=CC=CC=C1)NC1=C(C(=O)O)C=C(C=C1)C | C19H15ClN2O2
